US05270309
Treatment of 3-nitrobenzaldehyde (20 g) with methyltriphenylphosphonium bromide (61.5g) and n-butyllithium in hexane (172 mmol), as described in Example 1a, gave 3-ethenylnitrobenzene (10.3 g), δ (360 MHz, CDCl3), 5.44 and 5.59 (2H, 2d, CH2), 6.75 (1H, dd, CH), 7.49 (1H, t, 5-H), 7.70 (1H, dd, 4-H), 8.09 (1H, dd, 6-H) and 8.24 (1H, d, 2-H).

reactant | 3-nitrobenzaldehyde | 20 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 172 mmol | CCCCCC | C6H14
catalyst | methyltriphenylphosphonium bromide | 61.5g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-ethenylnitrobenzene | 10.3 g | C(=C)C=1C=C(C=CC1)[N+](=O)[O-] | C8H7NO2
